US05567391
1,3-dihydro-7-nitro-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one;
1,3-dihydro-1-isopropyl-6-methyl-3-(4-hydroxyphenyl)-2H-1,4-benzodiazepin-2-one; 7-nitro-1,3-dihydro-1-methyl-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one;

reactant | 1,3-dihydro-1-isopropyl-6-methyl-3-(4-hydroxyphenyl)-2H-1,4-benzodiazepin-2-one | C(C)(C)N1C(C(N=CC2=C1C=CC=C2C)C2=CC=C(C=C2)O)=O | C19H20N2O2
reactant | 7-nitro-1,3-dihydro-1-methyl-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NC(C(N2C)=O)C2=CC=C(C=C2)O)C2=CC=CC=C2)C1 | C22H17N3O4
product | 1,3-dihydro-7-nitro-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NC(C(N2)=O)C2=CC=C(C=C2)O)C2=CC=CC=C2)C1 | C21H15N3O4
